US07138533B2
6-(5-Chloropentanoyl)-3,4-dihydroquinolin-2(1H)-one
Using 3,4-dihydroquinolin-2(1H)-one (2.94 g) and 5-chloropentanoyl chloride (3.7 g) according to the same method as that of Reference Example 1, the title compound was obtained as colorless crystals (1.59 g) having a melting point of 145 to 146° C.

reactant | 3,4-dihydroquinolin-2(1H)-one | 2.94 g | N1C(CCC2=CC=CC=C12)=O | C9H9NO
reactant | 5-chloropentanoyl chloride | 3.7 g | ClCCCCC(=O)Cl | C5H8Cl2O
product | 6-(5-Chloropentanoyl)-3,4-dihydroquinolin-2(1H)-one | ClCCCCC(=O)C=1C=C2CCC(NC2=CC1)=O | C14H16ClNO2
